US05401772
Bis (3-Isopropyl-4-methoxyphenyl) iodonium tetrafluoroborate (116.5 1 g) and 19.26 g of copper bronze are stirred in 300 ml dichloromethane cooled in an ice water bath. A mixture of 25.36 g of 2,6-dimethyl-4-nitrophenol and 16.88 g of triethylamine is added dropwise. The mixture is stirred in the dark for five days, then filtered through Celite to remove copper. The filtrate is stripped and the residue chromatographed on silica gel with 97:3 hexane:ethyl acetate as eluent, affording 3,5-dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene NMR(CDCl3): δ1.1 (6H,d), 2.2 (6H,s), 3.3 (1H,m), 3.7 (3H,s), 6.3 (1H,d of d), 6.6 (1H,d), 6.7 (1H,d), 8.0 (2H,s).

reactant | Bis (3-Isopropyl-4-methoxyphenyl) iodonium tetrafluoroborate | 1 g | F[B-](F)(F)F.C(C)(C)C=1C=C(C=CC1OC)[I+]C1=CC(=C(C=C1)OC)C(C)C
reactant | 2,6-dimethyl-4-nitrophenol | 25.36 g | CC1=C(C(=CC(=C1)[N+](=O)[O-])C)O | C8H9NO3
reactant | triethylamine | 16.88 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
catalyst | copper bronze | 19.26 g | [Cu] | Cu
product | 3,5-dimethyl-4-(3'-isopropyl-4'-methoxyphenoxy)-nitrobenzene | CC=1C=C(C=C(C1OC1=CC(=C(C=C1)OC)C(C)C)C)[N+](=O)[O-] | C18H21NO4
